US05475013
A solution of [1S-[1R*(R*), 2S*]]- N1[3-[[[(1,1-dimethylethyl)amino]carbonyl]n-butyl)amino]-2-hydroxy-1-(phenylmethy)propyl]-2-[(phenylmethylcarbamoyl)amino]butanediamide (1.03 g, 1.77 mmol) in 40 mL of abs. ethanol ws then deprotected by hydrogenolysis in the presence of 10% palladium on carbon catalyst to give, after filtration and concentration, the free amine (428 mg) which was coupled with N-hydroxysuccinimide ester of 2-quinoline carboxylate (270 mg, 1.0 mmol) in dichloromethane for 16 h to give 380 mg, 63% of [1S-[1R*(R*), 2S*]]-N1[3-[[[1,1-dimethylethyl)amino]carbonyl](n-butyl)amino]-2-hydroxy-1-(phenylmethyl)propyl]-2-[(2-quinolinylcarbonyl)amino]-butanediamide, mp 102.1°-103° C.

reactant | 2-[(phenylmethylcarbamoyl)amino]butanediamide | 1.77 mmol, 1.03 g | C1(=CC=CC=C1)CNC(=O)NC(C(=O)N)CC(=O)N | C12H16N4O3
reactant | ethanol | C(C)O | C2H6O
reactant | 2-quinoline carboxylate | 1.0 mmol, 270 mg | N1=C(C=CC2=CC=CC=C12)C(=O)[O-]
catalyst | palladium on carbon | [Pd] | Pd
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[(2-quinolinylcarbonyl)amino]-butanediamide | N1=C(C=CC2=CC=CC=C12)C(=O)NC(C(=O)N)CC(=O)N | C14H14N4O3
